* Z:\mnt\Documentos\Facultad\Electronica Aplicada III\Practicos\repo\EAIII\TP 3\simulaciones\Draft1.asc
B1 Vout 0 V=if((time+0.498),(sin(2*pi*25k*time)),(sin(2*pi*15k*time)))
V1 Vpul 0 5
.tran 0 5m 0 10n
.backanno
.end
