* Z:\mnt\Documentos\Facultad\Electronica Aplicada III\Practicos\repo\EAIII\TP 3\simulaciones\VCO\PLL.asc
XU1 a b N004 0 N005 N007 N002 vco_in VDD 0 dem_out N001 N003 N006 vco_out N008 CD4046Bg
V2 VDD 0 {vdd}
C1 a b {C1}
R1 N005 0 {R1}
R2 N007 0 {R2}
R4 dem_out 0 10k
V1 vco_in 0 PWL(0 0 200u 0 201u {vdd/2} 350u {vdd/2} 351u {vdd} 500u {vdd})
.tran 500u startup
.inc CD4046Bg.sub
.inc ../CD4000_v.lib
.param R1=3.3k R2=10k C1=560p
.param vdd = 12
.backanno
.end
