* C:\users\dante\Mis Documentos\LTspiceXVII\TP 3\simulaciones\PLL\PLL_barrido.asc
XU1 a b comp_in 0 N003 N004 f_in vco_in VDD 0 dem_out N001 N002 pulsos_de_fase out N005 CD4046Bg
V2 VDD 0 {vdd} Rser=0.001
R3 vco_in N001 {R3}
C1 a b {C1}
C2 0 vco_in {C2}
R1 N003 0 {R1}
R2 N004 0 {R2}
R4 dem_out 0 10k
XU2 0 0 out NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 comp_in VDD 0 CD4017B VDD=5 SPEED=1.0 TRIPDT=5e-9
B1 f_in 0 V = 6+6*sgn(cos(6.283 * (Fs + (Fe-Fs) / te *( time)/2) * time))
.inc CD4046Bg.sub
.inc ../CD4000_v.lib
.param R1=3.3k R2=10k C1=750p
.param R3=3.9k C2=10n
* Oscilador interno del VCO
* Filtro RC
.param vdd=12
.param Fs=1
.param Fe=30000
.param te=60m
.tran 0 {te} 0
* ascendente V = 6+6*sgn(sin(6.283 * (Fs + (Fe-Fs) / te *( time) / 2) * time))\n \ndescendente V = 6+6*sgn(cos(6.283 *  (Fe - (Fe-Fs) / te *( time)/2) * time))
.backanno
.end
